US08455507B2
Method H: 1-methyl-6-nitro-2-(trifluoromethyl)-1H-benzo[d]imidazole
A 250 ml round bottomed flask was charged with N1-methyl-5-nitrobenzene-1,2-diamine (29 g, 0.16 mol), trifluoroacetic acid (22 ml, 0.24 mol) and a few drops of concentrated HCl. A minimum amount of DCM (˜20 ml) was added so that the solid mixture was stirring. The reaction mixture was heated to 70° C. for 12 hours forming a dark brown liquid. The reaction mixture was allowed to cool to room temperature, basified by the slow addition of saturated bicarbonate solution, and extracted into ethyl acetate. The aqueous layer was further extracted twice with ethyl acetate. The organic layers were combined, dried over magnesium sulfate, filtered and concentrated in vacuo. The compound was purified by flash column chromatography (10 to 20% ethyl acetate/petrol) to afford the title compound (8 g, 20% yield). 1H NMR (DMSO D6, 400 MHz) 4.2 (3H, s), 8.05 (1H, d), 8.35 (1H, d), 8.55 (1H, s); MS (ES+) 246.

reactant | N1-methyl-5-nitrobenzene-1,2-diamine | 0.16 mol, 29 g | CNC=1C(=CC=C(C1)[N+](=O)[O-])N | C7H9N3O2
reactant | trifluoroacetic acid | 0.24 mol, 22 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | bicarbonate | C([O-])(O)=O
catalyst | HCl | a few drops | Cl | ClH
solvent | DCM | ˜20 ml | C(Cl)Cl | CH2Cl2
product | 1-methyl-6-nitro-2-(trifluoromethyl)-1H-benzo[d]imidazole | 8 g, 20% yield | CN1C(=NC2=C1C=C(C=C2)[N+](=O)[O-])C(F)(F)F | C9H6F3N3O2
